US05623072
5-Chloro-3-[3-(trifluoromethyl)phenyl]pyridazine (2 g, 0.0077 mole, Compound No. 5), 2.5N NaOH (50 mL) and DMSO (100 mL) were refluxed under N2 for 2 h. The mixture was then allowed to cool and made acidic with 12N HCl and extracted 3×100 mL with ethyl acetate. The organic layer was dried (MgSO4), filtered and evaporated in vacuo to give a crude solid which was recrystallized from methanol to give 6-[3-(trifluoromethyl)phenyl]-4-pyridazinol (1 g, 54% yield, Compound No. 25) as a light brown solid.

reactant | 5-Chloro-3-[3-(trifluoromethyl)phenyl]pyridazine | 0.0077 mole, 2 g | ClC=1C=C(N=NC1)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2
reactant | NaOH | 2.5N, 50 mL | [OH-].[Na+]
reactant | HCl | 12N | Cl | ClH
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 6-[3-(trifluoromethyl)phenyl]-4-pyridazinol | 1 g, 54% yield | FC(C=1C=C(C=CC1)C1=CC(=CN=N1)O)(F)F | C11H7F3N2O
